US04677220
α-L-Aspartyl-L-Phenylalanine Methyl Ester Hydrochloride (α-APM.HCl)
L-Phenylalanine (7.4 g, 0.045 mole) was stirred in 90 ml of water. The pH of this solution was adjusted to 10.2 (0°-2° C.) with 50% NaOH. Then a solution of pure NCA (8.3 g, 0.048 mole) in 8 ml of THF was added in 15 min. with vigorous stirring. The pH was maintained at 10.0-10.2 by the addition of 7N NaOH solution. The reaction mixture was then stirred at 0°-2° C. for 2 hr (pH 10.0-10.2). Sufficient 37% hydrochloric acid (9.7 g) was added at the end of the hold period to neutralize the NaOH. The solution was then warmed to 25° C. Liquid chromatography indicated an 80-82% yield of aspartyl ester based on L-phenylalanine. This clear solution was extracted twice with 50 ml portions of ethyl acetate. To the aqueous solution, 4.2 g of 37% HCl (0.043 mole) was added. The solution was concentrated under vacuum to a total weight of 31.1 g. Another 8.4 g (0.085 mole) of 37% HCl was added and the reaction slurry was held at 40° C. for 6 h to convert the aspartyl ester to α-L-aspartyl-L-phenylalanine hydrochloride. Solid (NaCl) was collected at 40° C. and washed with 2.6 g (0.026 mole) of 37% HCl and 7.5 g of methanol. Seed crystals were added to the combined filtrate and washings. The resulting solution was stirred at ambient temperature for 68 hours. The thick slurry was cooled to 0°-2° C. and the solid was collected by filtration and washed with 7 ml of cold water. The dry weight of α-APM.HCl was 9 g (55% yield based on L-phenylalanine). Product identity was confirmed by LC analysis.

reactant | HCl | 0.043 mole, 4.2 g | Cl | ClH
reactant | HCl | 0.085 mole, 8.4 g | Cl | ClH
reactant | α-L-aspartyl-L-phenylalanine hydrochloride | Cl.N[C@@H](CC(O)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O
reactant | HCl | 0.026 mole, 2.6 g | Cl | ClH
reactant | methanol | 7.5 g | CO | CH4O
product | α-L-Aspartyl-L-Phenylalanine Methyl Ester Hydrochloride | Cl.COC([C@@H](NC([C@@H](N)CC(O)=O)=O)CC1=CC=CC=C1)=O | InChI=1S/C14H18N2O5.ClH/c1-21-14(20)11(7-9-5-3-2-4-6-9)16-13(19)10(15)8-12(17)18;/h2-6,10-11H,7-8,15H2,1H3,(H,16,19)(H,17,18);1H/t10-,11-;/m0./s1
